US07109225B2
0.693 g of 4-allyl-2-tert-butyl-5-ethyl-oxazole (3.585 mmol) was dissolved under an argon atmosphere in 10 ml of abs. THF and treated at 0° with 3 eq. of 9-BBN (0.5 M, hexane). After 3 h at ambient temperature, when TLC indicated the absence of starting material, 20.9 ml of 30% H2O2 and 10. 3 ml of 3N NaOH was added dropwise, but simultaneously. After cessation of the strongly exothermic reaction, the mixture was diluted with AcOEt and water, the layers separated, the aqueous phase reextracted with AcOEt, and the combined organic phases washed with water. Drying over sodium sulfate and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=1/1) afforded 0.400 g of 3-(2-tert-butyl-5-ethyl-oxazol-4-yl)-propan-1-ol as colorless oil.

reactant | 4-allyl-2-tert-butyl-5-ethyl-oxazole | 3.585 mmol, 0.693 g | C(C=C)C=1N=C(OC1CC)C(C)(C)C | C12H19NO
reactant | 9-BBN | 0.5 M, 3 eq. | B1C2CCCC1CCC2 | C8H15B
reactant | H2O2 | 20.9 ml | OO | H2O2
reactant | NaOH | 3N, 3 ml | [OH-].[Na+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2-tert-butyl-5-ethyl-oxazol-4-yl)-propan-1-ol | 0.400 g | C(C)(C)(C)C=1OC(=C(N1)CCCO)CC | C12H21NO2
